US06432957B1
Synthesis of 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)-pyridine:
4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)pyridine (18.15 g) was dissolved in chloroform (300 mL) , and to the solution thionyl chloride (19.2 mL) was added at 0° C.. After 30 minutes, the mixture was warmed to room temperature and stirred for 4 hours. The reaction mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resultant crystals were then recrystallized from chloroform-hexane to obtain the title compound.

reactant | 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 18.15 g | OCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H17NO4
reactant | thionyl chloride | 19.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)-pyridine | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
